US06903126B2
6-[[2-Benzylmercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
800 mg of 6-[[2-mercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 8 ml of N,N-dimethylformamide, mixed with 0.3 ml of benzylbromide, 438 mg of potassium hydrogen carbonate and 75 mg of dicyclohexano-18-crown-6, and the mixture was stirred for 15 hours at 20° C. It was filtered, and the filtrate was concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 976 mg was obtained.

reactant | 6-[[2-mercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 800 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S)C2=CC=C(C=C2)C)C1)=O | C21H24N2O3S
reactant | benzylbromide | 0.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydrogen carbonate | 438 mg | C(O)([O-])=O.[K+]
reactant | dicyclohexano-18-crown-6 | 75 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 6-[[2-Benzylmercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCC2=CC=CC=C2)C2=CC=C(C=C2)C)C1)=O | C28H30N2O3S
